US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
N-[5-(4-Amino-2-fluorophenoxy)[1,3]thiazolo[5,4-b]pyridin-2-yl]cyclopropanecarboxamide (240 mg, 0.70 mmol), 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (190 mg, 0.77 mmol) and HATU (340 mg, 0.91 mmol) were suspended in N,N′-dimethylformamide (3.0 mL), and N,N-diisopropylethylamine (0.24 mL, 1.4 mmol) was added. After stirring at room temperature for 8 hr, the mixture was diluted with ethyl acetate (5.0 mL) and tetrahydrofuran (5.0 mL). The mixture was washed twice with saturated aqueous sodium hydrogen carbonate solution, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and ethyl acetate was added to the residue. The resulting precipitate was collected by filtration to give the title compound (350 mg, 0.61 mmol, 88%) as a pale-yellow solid.

reactant | N-[5-(4-Amino-2-fluorophenoxy)[1,3]thiazolo[5,4-b]pyridin-2-yl]cyclopropanecarboxamide | 0.70 mmol, 240 mg | NC1=CC(=C(OC2=CC=C3C(=N2)SC(=N3)NC(=O)C3CC3)C=C1)F | C16H13FN4O2S
reactant | 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.77 mmol, 190 mg | FC1=CC=C(C=C1)N1C(C(=CC=C1C)C(=O)O)=O | C13H10FNO3
reactant | HATU | 0.91 mmol, 340 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.4 mmol, 0.24 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N′-dimethylformamide | 3.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 5.0 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)-3-fluorophenyl]-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 0.61 mmol, 350 mg, 88% | C1(CC1)C(=O)NC=1SC2=NC(=CC=C2N1)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C(=CC1)C)C1=CC=C(C=C1)F)=O)F | C29H21F2N5O4S
